US05371064
A mixture of 3-cyclopropyl-1-[2-(4-chlorophenylsulphenyl)-4-trifluoromethylphenyl]propan-1,3-dione (2.9 g) and triethylorthoformate (2.3 g) in acetic anhydride (2.4 g) was heated at reflux for 75 minutes. The reaction mixture was concentrated to give 3-cyclopropyl- 1-[2-(4-chlorophenylsulphenyl)-4-trifluoromethylphenyl]-2-ethoxymethylenepropan-1,3-dione as a red oil which was used without further purification.

reactant | 3-cyclopropyl-1-[2-(4-chlorophenylsulphenyl)-4-trifluoromethylphenyl]propan-1,3-dione | 2.9 g | C1(CC1)C(CC(=O)C1=C(C=C(C=C1)C(F)(F)F)SC1=CC=C(C=C1)Cl)=O | C19H14ClF3O2S
reactant | triethylorthoformate | 2.3 g | C(C)OC(OCC)OCC | C7H16O3
solvent | acetic anhydride | 2.4 g | C(C)(=O)OC(C)=O | C4H6O3
product | 3-cyclopropyl- 1-[2-(4-chlorophenylsulphenyl)-4-trifluoromethylphenyl]-2-ethoxymethylenepropan-1,3-dione | C1(CC1)C(C(C(=O)C1=C(C=C(C=C1)C(F)(F)F)SC1=CC=C(C=C1)Cl)=COCC)=O | C22H18ClF3O3S
